US05688798
Firstly 1.46 ml (0.0105 mol) of triethylamine and then 1.7 ml (0.0102 mol) of trifluoromethanesulphonic anhydride were added dropwise under argon to an ice-cold solution of 2.49 g (0.010 mol) of tert.-butyl 6-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylate in 80 ml of dichloromethane. The mixture was stirred at room temperature for 1 hour, poured into saturated sodium hydrogen carbonate solution, extracted with ethyl acetate and completely freed from the solvents. 3.81 g of oily crude tert.-butyl 6-(trifluoromethanesulphonyloxy)-3,4-dihydro-1H-isoquinoline-2-carboxylate were obtained.

reactant | triethylamine | 0.0105 mol, 1.46 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulphonic anhydride | 0.0102 mol, 1.7 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | tert.-butyl 6-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylate | 0.010 mol, 2.49 g | OC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C14H19NO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | tert.-butyl 6-(trifluoromethanesulphonyloxy)-3,4-dihydro-1H-isoquinoline-2-carboxylate | 3.81 g | FC(S(=O)(=O)OC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C)(F)F | C15H18F3NO5S
